US05854264
Step B: 4-Pyrimidin-5-yl-phenyl-methanol
4-Pyrimidin-5-yl-benzaldehyde (1.89 mmol, 350 mg) was dissolved in MeOH. NaBH4 (9.4 mmol, 357 mg) was added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was cooled to 0° and 9M HCl (0.25 mL) was added dropwise. The reaction mixture was stirred for one half hour. The reaction mixture was then basified with 20% NaOH (pH=10). EtOAc and H2O were added and the layers were separated. The aqueous layer was back extracted with EtOAc (3×). The organic layers were combined, washed with brine, dried (MgSO4), filtered and concentrated to yield a tan solid. Flash chromatography (EtOAc) afforded the title compound as a white solid.

reactant | 4-Pyrimidin-5-yl-benzaldehyde | 1.89 mmol, 350 mg | N1=CN=CC(=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
reactant | NaBH4 | 9.4 mmol, 357 mg | [BH4-].[Na+]
reactant | HCl | 9M, 0.25 mL | Cl | ClH
reactant | NaOH | pH=10 | [OH-].[Na+]
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-Pyrimidin-5-yl-phenyl-methanol | N1=CN=CC(=C1)C1=CC=C(C=C1)CO | C11H10N2O
